US09233979B2
A 100 mL round bottom flask was charged with 6-chloro-4-methyl-1H-pyrazolo[4,3-c]pyridine (1.20 g, 7.16 mmol) and DMF (28.5 mL). The reaction flask was warmed to 70° C. and KOH (1.2 g, 21.48 mmol) was added. Iodine (5.45 g, 21.48 mmol) was added gradually over 1 h. The reaction mixture was stirred for 3 h then additional KOH (3.2 g, 57.0 mmol) and iodine (15.6 g, 61.5 mmol) were added. The reaction was heated at 70° C. for 2 h. The reaction was poured into saturated sodium thiosulfate (500 mL) and diluted with EtOAc (200 mL). The aqueous phase was extracted with EtOAc (200 mL, ×2). The combined organic phase was washed with water (200 mL) and brine (200 mL), dried over MgSO4, filtered, and concentrated in vacuo to give 6-chloro-3-iodo-4-methyl-1H-pyrazolo[4,3-c]pyridine. MS ESI calc'd. for C7H5ClIN3 [M+1]+ 294. found 294.

reactant | 6-chloro-4-methyl-1H-pyrazolo[4,3-c]pyridine | 7.16 mmol, 1.20 g | ClC1=CC2=C(C(=N1)C)C=NN2 | C7H6ClN3
reactant | KOH | 21.48 mmol, 1.2 g | [OH-].[K+]
reactant | Iodine | 21.48 mmol, 5.45 g | II | I2
reactant | KOH | 57.0 mmol, 3.2 g | [OH-].[K+]
reactant | iodine | 61.5 mmol, 15.6 g | II | I2
reactant | sodium thiosulfate | 500 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 28.5 mL | CN(C)C=O | C3H7NO
product | 6-chloro-3-iodo-4-methyl-1H-pyrazolo[4,3-c]pyridine | ClC1=CC2=C(C(=N1)C)C(=NN2)I | C7H5ClIN3
